US07531569B2
e) (RS)-[3-Oxo-2-(2,2,2-trifluoroethyl)-6-trifluoromethyl-2,3-dihydro-1H-isoindol-1-yl]acetic acid
2.2 g of ethyl (E)-3-[2-(2,2,2-trifluoroethylcarbamoyl)-5-trifluoromethylphenyl]acrylate (5.9 mmol) were dissolved in 10 ml of methanol and 1.5 ml of a 5 M aqueous NaOH solution (7.5 mmol) were added. The mixture was stirred at RT for 18 h and then set to pH=7 using aqueous HCl solution. The solvents were removed under reduced pressure and the residue was suspended in 10 ml of water. This suspension was set to pH=2 using a 2N aqueous HCl solution and extracted 3 times with 10 ml each time of EA. Drying was effected over Na2SO4 and the solvent was removed under reduced pressure. The residue was crystallized with diethyl ether/DIP, mp: 202-204° C.

reactant | ethyl (E)-3-[2-(2,2,2-trifluoroethylcarbamoyl)-5-trifluoromethylphenyl]acrylate | 5.9 mmol, 2.2 g | FC(CNC(=O)C1=C(C=C(C=C1)C(F)(F)F)/C=C/C(=O)OCC)(F)F | C15H13F6NO3
reactant | NaOH | 7.5 mmol, 5 M | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | (RS)-[3-Oxo-2-(2,2,2-trifluoroethyl)-6-trifluoromethyl-2,3-dihydro-1H-isoindol-1-yl]acetic acid | O=C1N(C(C2=CC(=CC=C12)C(F)(F)F)CC(=O)O)CC(F)(F)F | C13H9F6NO3
